US09056865B2
Step 1: 2-(methylthio)pyrimidin-4(3H)-one
2-thioxo-2,3-dihydropyrimidin-4(1H)-one (66.7 g, 0.497 mol) was dissolved in aq. NaOH (41.6 g of solid in 365 mL of H2O). The mixture was then treated with CH3I (100.1 g, 0.704 mol) and was stirred at room temperature for 18 h. TLC (petroleum ether: EtOAc=4:1) indicated that the reaction was complete. The resulting mixture was adjusted to pH=5˜6 with HOAc (30 mL). The solid formed was collected and dried on vacuum to give title compound (40 g, 54%) as a white solid.

reactant | 2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 0.497 mol, 66.7 g | S=C1NC=CC(N1)=O | C4H4N2OS
reactant | CH3I | 0.704 mol, 100.1 g | CI | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HOAc | 30 mL | CC(=O)O | C2H4O2
solvent | NaOH | 365 mL, 41.6 g | [OH-].[Na+]
product | 2-(methylthio)pyrimidin-4(3H)-one | 40 g, 54% | CSC1=NC=CC(N1)=O | C5H6N2OS
